US03978228
4-Chlorophenyl 2,3-dichloropropanesulfonate
To a solution of 23.2 g of 4-chlorophenyl 2-propenesulfonate in 80 ml of chloroform was added 7.1 g of chlorine absorbed in 20 ml of chloroform dropwise with stirring below 0°C. After the addition, the mixture was stirred for two hours at room temperature. By distillation of the solvent and fractionation, 25.5 g of 4-chlorophenyl 2,3-dichloropropanesulfonate, B.P. 143°-145°C/0.015 mmHg, was obtained in a yield of 84.2%.

reactant | 4-chlorophenyl 2-propenesulfonate | 23.2 g | C(C=C)S(=O)(=O)OC1=CC=C(C=C1)Cl | C9H9ClO3S
reactant | chlorine | 7.1 g | ClCl | Cl2
reactant | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chlorophenyl 2,3-dichloropropanesulfonate | yield of 84.2% | ClC(CS(=O)(=O)OC1=CC=C(C=C1)Cl)CCl | C9H9Cl3O3S
